US07476764B2
Step 2: Preparation of methyl 3-acetyl-5-(methyl(propyl)-carbamoyl)benzoate.
A mixture of methyl 3-bromo-5-(methyl(propyl)carbamoyl)benzoate (314 mg, 1.0 mmol), 1-(vinyloxy)butane (200.4 mg, 0.26 mL, 2.0 mmol), palladium acetate (6.68 mg, 0.030 mmol), DPPP (27.2 mg, 0.066 mmol) and potassium carbonate (166 mg, 1.2 mmol) in DMF (2.5 mL) and H2O (0.3 mL) in a Smith process vial was heated at 122° C. in microwave for 3 h. The reaction mixture was cooled down to RT and hydrolyzed by addition of 5% HCl slowly. The reaction mixture was worked up by extraction with ethyl acetate and concentration under vacuum. The crude mixture was purified by reverse phase prep HPLC to give the title compound (175 mg, 63% yield): HPLC retention time: 1.58 min (method A). MS (ESI) (M+H)+ 278.19.

reactant | methyl 3-bromo-5-(methyl(propyl)carbamoyl)benzoate | 1.0 mmol, 314 mg | BrC=1C=C(C(=O)OC)C=C(C1)C(N(CCC)C)=O | C13H16BrNO3
reactant | 1-(vinyloxy)butane | 2.0 mmol, 0.26 mL, 200.4 mg | C(=C)OCCCC | C6H12O
reactant | DPPP | 0.066 mmol, 27.2 mg | C1=CC=C(C=C1)P(CCCP(C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4 | C27H26P2
reactant | potassium carbonate | 1.2 mmol, 166 mg | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | Cl | ClH
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | H2O | 0.3 mL | O | H2O
catalyst | palladium acetate | 0.030 mmol, 6.68 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | methyl 3-acetyl-5-(methyl(propyl)-carbamoyl)benzoate | 175 mg, 63% yield | C(C)(=O)C=1C=C(C(=O)OC)C=C(C1)C(N(CCC)C)=O | C15H19NO4
